US04229438
Production of pGlu-Ala-Lys-Ser-Gln-(D)-Ser-Gly-Ser-Asn-OH
Using 550 mg of pGlu-Ala-Lys(Boc)-Ser-Gln-(D)-Ser-Gly-Ser-Asn-OBut and 20 ml of trifluoroacetic acid, the same procedure as Example 5-(VIII) is followed to prepare the above-indicated compound. Yield 320 mg; [α]D24 -56.3°(c=0.5, water); Rf4 (Avicel)=0.17; amino acid analysis (hydrolyzed with HCl); Lys, 1.10(1); Asp, 1.00(1); Ser, 3.02(3); Glu, 2.14(2); Gly, 1.10(1); Ala, 1.00(1); average recovery 87.0%.

reactant | pGlu-Ala-Lys(Boc)-Ser-Gln-(D)-Ser-Gly-Ser-Asn-OBut | 550 mg | N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@H](CO)C(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C43H72N12O18
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | Cl | ClH
reactant | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | Asp | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
reactant | Glu | N[C@@H](CCC(O)=O)C(=O)O | C5H9NO4
reactant | Gly | NCC(=O)O | C2H5NO2
reactant | Ala | N[C@@H](C)C(=O)O | C3H7NO2
solvent | water | O | H2O
product | pGlu-Ala-Lys-Ser-Gln-(D)-Ser-Gly-Ser-Asn-OH | N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@H](CO)C(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)O | C34H56N12O16
